US06235787B1
(E)-2(R)-[1(S)-(Hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-[2-(3-indolyl)ethyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide
The starting material was prepared in an analogous manner to that described in Example 15, part (iii), starting from (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide and 3-(2-bromoethyl)indole.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNS(=O)(=O)C)CC(C)C | C23H35N3O6S
reactant | 3-(2-bromoethyl)indole | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
product | (E)-2(R)-[1(S)-(Hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-[2-(3-indolyl)ethyl]-2′-(methanesulphonyl)-4-methylvalerohydrazide | ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(S(=O)(=O)C)CCC1=CNC2=CC=CC=C12)CC(C)C | C28H36N4O5S
